US07786165B2
tert-butyl 3-(4-{{[2′,6′-dimethyl-4′-(tetrahydro-2H-thiopyran-4-yloxy)biphenyl-3-yl]methyl}[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate
To a solution of tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (3.0 g, 4.73 mmol), tetrahydro-2H-thiopyran-4-ol (0.62 g, 5.20 mmol) and triphenylphosphine (1.36 g, 5.20 mmol) in tetrahydrofuran (60 mL) was added diethyl azodicarboxylate (40% toluene solution, 2.79 mL, 6.15 mmol) under stirring at room temperature, and the mixture was stirred for 16 hr. To the reaction mixture were added reagents (tetrahydro-2H-thiopyran-4-ol, triphenylphosphine and diethyl azodicarboxylate) in a half amount as mentioned above, and the mixture was further stirred for 8 hr. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give the title compound (3.5 g, yield 100%) as a pale-yellow oil.

reactant | tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 4.73 mmol, 3.0 g | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OC(C)(C)C | C34H35FN2O7S
reactant | tetrahydro-2H-thiopyran-4-ol | 5.20 mmol, 0.62 g | S1CCC(CC1)O | C5H10OS
reactant | triphenylphosphine | 5.20 mmol, 1.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.15 mmol, 2.79 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-{{[2′,6′-dimethyl-4′-(tetrahydro-2H-thiopyran-4-yloxy)biphenyl-3-yl]methyl}[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 3.5 g, yield 100% | CC1=C(C(=CC(=C1)OC1CCSCC1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C39H43FN2O7S2
